US06528525B1
(a) Ethyl 3-(4-benzyloxyphenyl)-2-(4-trifluoromethoxyphenoxy)propionate
In a similar manner to that described in Example 122, a reaction was carried out using ethyl 3-(4-benzyloxyphenyl)lactate (4.50 g), which is the product of Reference example 1(b), 4-trifluoromethoxyphenol (2.33 ml), triphenylphosphine (4.71 g) and solution of diethylazodicarboxylate in toluene (40%, 8.15 ml) and the reaction mixture was treated to afford the desired compound (4.19 g) as colorless crystals.

reactant | ethyl 3-(4-benzyloxyphenyl)lactate | 4.50 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)O | C18H20O4
reactant | 4-trifluoromethoxyphenol | 2.33 ml | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | triphenylphosphine | 4.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 8.15 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-(4-benzyloxyphenyl)-2-(4-trifluoromethoxyphenoxy)propionate | 4.19 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)OC(F)(F)F | C25H23F3O5
